US07259183B2
Preparation of (4-cyclobutyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 200 mg of 4-cyclobutyl-benzaldehyde (1.25 mmol), 237 mg of 2-(3,4-dichloro-phenyl)-ethylamine (1.25 mmol) and 71 mg of sodium borohydride (1.87 mmol). The isolated yellow oil (416 mg, 100%) was used in the following step without further purification. 1H NMR (CDCl3, 300 MHz): δ 1.84 (m, 1H), 1.95-2.21 (m, 3H), 2.33 (m, 2H), 2.76 (m, 2H), 2.87 (m, 2H), 3.53 (quint, J=9 Hz, 1H), 3.76 (s, 2H), 7.03 (dd, J=8 and 2 Hz, 1H), 7.19 (m, 4H), 7.29 (d, J=2 Hz, 1H), 7.34 (d, J=8 Hz, 1H).

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 4-cyclobutyl-benzaldehyde | 1.25 mmol, 200 mg | C1(CCC1)C1=CC=C(C=O)C=C1 | C11H12O
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 1.25 mmol, 237 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | sodium borohydride | 1.87 mmol, 71 mg | [BH4-].[Na+]
product | (4-cyclobutyl-benzyl)-[2-(3,4-dichloro-phenyl)-ethyl]-amine | C1(CCC1)C1=CC=C(CNCCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C19H21Cl2N
